US04427437
Preparation of 2-nitro-5-(5-chloro-2-pyrimidyloxy)-phenol (164)
Fuming nitric acid (1.3 g) was added slowly to a stirred suspension of 3-(5-chloro-2-pyrimidyloxy)phenol (2.2 g) in diethyl ether (20 ml) at 20° C. The temperature rose to 30° C. and the resultant orange solution was allowed to stand for 48 hr before the addition of water and extraction with chloroform (100 ml). The chloroform extracts were dried and evaporated to give a pale yellow crystalline solid (1.3 g). Chromatography on a column of silica gel (80 g) with chloroform elution gave the title compound as a pale yellow-solid from the first fraction (0.7 g, 28%). The compound was identified from its pmr spectrum.

reactant | nitric acid | 1.3 g | [N+](=O)(O)[O-] | HNO3
reactant | 3-(5-chloro-2-pyrimidyloxy)phenol | 2.2 g | ClC=1C=NC(=NC1)OC=1C=C(C=CC1)O | C10H7ClN2O2
reactant | water | O | H2O
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 2-nitro-5-(5-chloro-2-pyrimidyloxy)-phenol | 1.3 g | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=NC=C(C=N1)Cl)O | C10H6ClN3O4
